*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC500ARA220MF61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC500ARA220MF61G_20deg-C 1 2

C1 4 2 1.53e-05
C2 5 2 3.41e-06
C3 6 2 6.37e-07
R1 3 4 2.14e-02
R2 4 5 2.99e-01
R3 5 6 1.64e+01
L1 1 3 2.60e-09

.ENDS
*$
